US07456176B2
7-(2-chloro-5-nitro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine (0.65 mmol, 1.0 equiv), 4-bromo-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide (0.95 mmol, 1.5 equiv), Xantphos (0.065 mmol, 0.10 equiv), Pd(OAc)2 (0.033 mmol, 0.05 equiv), and potassium-t-butoxide (1.3 mmol, 2.0 equiv) were dissolved in 45 mL of dioxane and placed under an argon atmosphere. The reaction mixture was refluxed at 100° C. for 18 h and then cooled to room temperature. Inorganic salts were filtered out of solution and the organics were concentrated under reduced pressure. The residue was precipitated using EtOAC/hexanes (1:5 v/v) to afford 4-[7-(2-chloro-5-nitro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide, as a red solid (232 mg, 63% yield). Rf=0.42 MS (ES+) m/z=570. LC retention time 2.56 min.

reactant | 7-(2-chloro-5-nitro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine | 0.65 mmol, 1.0 equiv | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC2=C(N=C(N=N2)N)C(=C1)C | C14H10ClN5O2
reactant | 4-bromo-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | 0.95 mmol, 1.5 equiv | BrC1=CC=C(C=C1)S(=O)(=O)NCCN1CCCC1 | C12H17BrN2O2S
reactant | Xantphos | 0.065 mmol, 0.10 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium-t-butoxide | 1.3 mmol, 2.0 equiv | CC(C)([O-])C.[K+]
solvent | dioxane | 45 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.033 mmol, 0.05 equiv | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-[7-(2-chloro-5-nitro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC2=C(N=C(N=N2)NC2=CC=C(C=C2)S(=O)(=O)NCCN2CCCC2)C(=C1)C | C26H26ClN7O4S
